US06900215B2
A mixture of 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (256 mg, 1.0 mmol) and 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid (352 mg, 1.5 mmol) in tetrahydrofuran (3 ml) and sodium carbonate (1.25 ml of a 2M solution in water, 2.5 mmol) was degassed with nitrogen for 10 min. Tetrakis(triphenylphosphine)palladium(0) (58 mg, 0.05 mmol) was added and this mixture was heated at 65° C. for 24 h. The reaction was cooled to ambient temperature then partitioned between dichloromethane and saturated aqueous sodium hydrogencarbonate. The organics were dried over anhydrous magnesium sulfate, filtered and pre-adsorbed onto silica. Purification by chromatography on silica gel eluting with dichloromethane (containing 1% conc. ammonia) on a gradient of methanol (1-5%) gave 2-[3-(2,4-difluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol as a pale yellow oil which solidified on standing (200 mg, 44%). Bis-hydrochloride salt (from ethyl acetate/ethanol): δH (360 MHz, d6-DMSO) 1.56 (6H, s), 7.62 (1H, t, J 9), 7.79-7.84 (1H, m), 7.86 (1H, s), 7.88 (1H, s), 8.32 (1H, d, J 8), 8.54 (1H, s), 8.80 (1H, d, J 5), 8.98 (1H, s), 9.27 (1H, dd, J 7 and 3).

reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 1.0 mmol, 256 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
reactant | 2,4-difluoro-3-(pyridin-3-yl)benzeneboronic acid | 1.5 mmol, 352 mg | FC1=C(C=CC(=C1C=1C=NC=CC1)F)B(O)O | C11H8BF2NO2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 58 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-[3-(2,4-difluoro-3-(pyridin-3-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC1=C(C=CC(=C1C=1C=NC=CC1)F)C1=CN=C2N1C=CC(=N2)C(C)(C)O | C20H16F2N4O
